US08492582B2
Potassium carbonate (0.033 mg) and isopropyl iodide (0.024 mL) were sequentially added to an acetonitrile (1.9 mL) suspension of methyl 2-(2-(benzyloxy)-5-(piperidin-4-yl)benzamido)-4-phenylbenzoate (0.13 g), followed by heating to reflux for 1 hour. The reaction mixture was cooled to room temperature, and potassium carbonate (6.7 mg) and isopropyl iodide (4.8 μL) were sequentially added thereto, followed by heating to reflux for 2 hours. After cooling the reaction mixture to room temperature, the solvent was evaporated under reduced pressure, and ethyl acetate and a saturated aqueous solution of sodium bicarbonate were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-95% chloroform/methanol] to obtain 0.12 g of methyl 2-(2-(benzyloxy)-5-(1-isopropylpiperidin-4-yl)benzamido)-4-phenylbenzoate as an orange oily sub stance.

reactant | isopropyl iodide | 0.024 mL | C(C)(C)I | C3H7I
reactant | methyl 2-(2-(benzyloxy)-5-(piperidin-4-yl)benzamido)-4-phenylbenzoate | 0.13 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCNCC1 | C33H32N2O4
reactant | potassium carbonate | 6.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | 4.8 μL | C(C)(C)I | C3H7I
catalyst | Potassium carbonate | 0.033 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 1.9 mL | C(C)#N | C2H3N
product | methyl 2-(2-(benzyloxy)-5-(1-isopropylpiperidin-4-yl)benzamido)-4-phenylbenzoate | 0.12 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1CCN(CC1)C(C)C | C36H38N2O4
